US07728009B1
Step 2. Preparation of (1-cyclobutyl-piperidin-4-yl)-(1-ethyl-2-naphthalen-1-yl-1H-imidazol-4-yl)-methanol
To a solution of (1-ethyl-2-naphthalen-1-yl-1H-imidazol-4-yl)-piperidin-4-yl-methanol (0.53 g) in CH2ClCH2Cl (12 ml) is added cyclobutanone (0.95 ml), followed by NaBH(OAc)3 and acetic acid (0.1 ml). The resulting mixture is stirred at rt overnight, diluted with CH2Cl2, washed with Na2CO3 (1M), H2O and brine, dried and solvent removed. The crude is purified by column (2% Et3N, 3% MeOH in EtOAc) to afford the title compound as a white solid, LCMS 390.1 (M+1).

reactant | (1-ethyl-2-naphthalen-1-yl-1H-imidazol-4-yl)-piperidin-4-yl-methanol | 0.53 g | C(C)N1C(=NC(=C1)C(O)C1CCNCC1)C1=CC=CC2=CC=CC=C12 | C21H25N3O
reactant | cyclobutanone | 0.95 ml | C1(CCC1)=O | C4H6O
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (1-cyclobutyl-piperidin-4-yl)-(1-ethyl-2-naphthalen-1-yl-1H-imidazol-4-yl)-methanol | C1(CCC1)N1CCC(CC1)C(O)C=1N=C(N(C1)CC)C1=CC=CC2=CC=CC=C12 | C25H31N3O
